US04466962
Preparation of Methyl-2,3-dichloro-3-methylthioacrylate
A solution of 4.85 gms (92 mmols) of methanethiol and 9.3 gms (92 mmols) of triethylamine in methanol was slowly added to 17.6 gms (92 mmols) trichloroacrylate with cooling. After addition, the reaction system was stirred at room temperature for about 20 hours. The solvent and excess methanethiol were removed under reduced pressure. Ether was added to the residue (crude product) and the precipitated solvents filtered. The ether was removed under reduced pressure to give an oil. The oil was distilled to give 11.6 gms of a low melting solid (boiling point 125°-150° C. at approximately 50 mm Hg; melting point 27°-30° C.).

reactant | methanethiol | 92 mmols, 4.85 gms | CS | CH4S
reactant | triethylamine | 92 mmols, 9.3 gms | C(C)N(CC)CC | C6H15N
reactant | trichloroacrylate | 92 mmols, 17.6 gms | ClC(=C(C(=O)[O-])Cl)Cl
reactant | methanol | CO | CH4O
product | Methyl-2,3-dichloro-3-methylthioacrylate | COC(C(=C(C)Cl)Cl)=S | C5H6Cl2OS
